US05874587
Preparation of 5,6-dipyridinyl 2,3-pyrazinedicarbonitrile 49 (Trival name: 2,3-dicyano-5,6-dipyridylpyrazine)
Into a 250 mL round bottomed flask are placed, 2,2'-pyridil (8.48 g, 40 mmol), diaminomaleonitrile (4.32 g, 40 mmol) and 125 mL of ethanol. The flask is fitted with a magnetic stirrer and a condenser, and refluxed for 30 minutes. The mixture is allowed to cool, and 10 mL of water is added. Filtration yielded 8.9 g of crude product as a beige solid. The solid is boiled in benzene (400 mL) and filtered hot. The red filtrate is discarded giving 5.2 g of the title compound as a pale beige solid.

reactant | 2,2'-pyridil | 40 mmol, 8.48 g | C1=CC=NC(=C1)C(=O)C(=O)C2=CC=CC=N2 | C12H8N2O2
reactant | diaminomaleonitrile | 40 mmol, 4.32 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
reactant | ethanol | 125 mL | C(C)O | C2H6O
reactant | water | 10 mL | O | H2O
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | 5,6-dipyridinyl 2,3-pyrazinedicarbonitrile | 5.2 g | N1=C(C=CC=C1)C=1N=C(C(=NC1C1=NC=CC=C1)C#N)C#N | C16H8N6
